US08133907B2
2-[(E)-(R)-3-Dibenzylamino-4-(2-fluoro-phenyl)-but-1-enyl]-nicotinic acid methyl ester
To a suspension of (3-ethoxycarbonyl-pyridin-2-ylmethyl)-trimethyl-phosphonium bromide (0.9 g, 2.6 mmol) in 50 mL of ether is added potassium tert-butoxide (0.32 g, 2.9 mmol) and the reaction is heated at reflux for 30 minutes. The reaction is then cooled to −78° C., a solution of (R)-2-dibenzylamino-3-(2-fluoro-phenyl)-propionaldehyde (1.8 g, 3.5 mmol) in 10 mL of ether is added, and the reaction is allowed to stir at room temperature for 16 hours. The reaction is then concentrated under reduced pressure and purification of the resultant residue by silica gel flash column chromatography gives the title compound.

reactant | (3-ethoxycarbonyl-pyridin-2-ylmethyl)-trimethyl-phosphonium bromide | 2.6 mmol, 0.9 g | [Br-].C(C)OC(=O)C=1C(=NC=CC1)C[P+](C)(C)C
reactant | potassium tert-butoxide | 2.9 mmol, 0.32 g | CC(C)([O-])C.[K+]
reactant | (R)-2-dibenzylamino-3-(2-fluoro-phenyl)-propionaldehyde | 3.5 mmol, 1.8 g | C(C1=CC=CC=C1)N([C@@H](C=O)CC1=C(C=CC=C1)F)CC1=CC=CC=C1 | C23H22FNO
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | ether | 10 mL | CCOCC | C4H10O
product | 2-[(E)-(R)-3-Dibenzylamino-4-(2-fluoro-phenyl)-but-1-enyl]-nicotinic acid methyl ester | COC(C1=C(N=CC=C1)\C=C\[C@@H](CC1=C(C=CC=C1)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C31H29FN2O2
